US07423165B2
2002.6 g of 3-mercaptopropyl(triethoxy)silane are mixed with 6108.5 g of hexadecanol as well as with 2 g of tetrabutyl orthotitanate and heated at 95-115° C. for 360 minutes in a 10 liter flask in a distillation apparatus. Ethanol formed in the transesterification is distilled off in vacuo at 15-600 mbar. After cooling, 7022 g of a colourless, solid product are obtained. As can be shown by 1H-NMR and 29Si-NMR, 92% of the EtO—Si groups are replaced by R—O—Si. In the transesterification more than 80 mole % of the ethanol-free compound [(C16H33O)3Si—C3H6—SH is formed, as can be shown for example by 1H-NMR and 29Si-NMR.

reactant | 3-mercaptopropyl(triethoxy)silane | 2002.6 g | SCCC[Si](OCC)(OCC)OCC | C9H22O3SSi
reactant | hexadecanol | 6108.5 g | C(CCCCCCCCCCCCCCC)O | C16H34O
catalyst | tetrabutyl orthotitanate | 2 g | CCCCO.CCCCO.CCCCO.CCCCO.[Ti]
solvent | ethanol | C(C)O | C2H6O
product | (C16H33O)3Si—C3H6—SH | [Si](OCCCCCCCCCCCCCCCC)(OCCCCCCCCCCCCCCCC)(OCCCCCCCCCCCCCCCC)CCCS | C51H106O3SSi
